US07632829B2
(R)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-2-methyl-[1,4]diazepan-5-one
In analogy to the procedure described in intermediate 78C, (E)-3,4-dichlorocinnamic acid and (R)-2-methyl-[1,4]diazepan-5-one gave the title compound as a colorless gum, MS: m/e=327.3 (MH+).

reactant | (E)-3,4-dichlorocinnamic acid | ClC=1C=C(/C=C/C(=O)O)C=CC1Cl | C9H6Cl2O2
reactant | (R)-2-methyl-[1,4]diazepan-5-one | C[C@H]1NCCC(NC1)=O | C6H12N2O
product | (R)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-2-methyl-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1[C@@H](CNC(CC1)=O)C | C15H16Cl2N2O2
